US06261738B1
3.7 g (0.020 mol) of 2,2,2-trifluoro-1-(2-methylphenyl)-ethanone are dissolved in 20 ml of ethanol at 80° C. To the solution are added dropwise 1.4 g (0.020 mol) of hydroxylammonium chloride and 2.7 g (0.033 mol) of sodium acetate dissolved in 10 ml of water. The reaction mixture is refluxed for 5 hours, poured into ice water, and extracted with ethyl acetate. The organic phase is washed with water and brine, dried over MgSO4, and concentrated, yielding 2.7 g of 2,2,2-trifluoro-1-(2-methylphenyl)-ethanone oxime as a white solid. The crude product is used in the next reaction step without further purification.

reactant | 2,2,2-trifluoro-1-(2-methylphenyl)-ethanone | 0.020 mol, 3.7 g | FC(C(=O)C1=C(C=CC=C1)C)(F)F | C9H7F3O
reactant | hydroxylammonium chloride | 0.020 mol, 1.4 g | [Cl-].O[NH3+]
reactant | sodium acetate | 0.033 mol, 2.7 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
product | 2,2,2-trifluoro-1-(2-methylphenyl)-ethanone oxime | 2.7 g | FC(C(=NO)C1=C(C=CC=C1)C)(F)F | C9H8F3NO
